US08431599B2
To stirred and cooled (0° C.) methyl isocyanoacetate (96% technical grade, 345 mg, 3.48 mmol) was slowly added 3,3-difluoropyrrolidine hydrochloride (500 mg, 3.48 mmol), triethylamine (487 μL, 3.48 mmol) and MeOH (1 mL). The mixture was stirred for 15 h at RT and then concentrated. The resulting oil was coevaporated twice from EtOAc. 1-(3,3-Difluoropyrrolidin-1-yl)-2-isocyanoethanone VIB 01158 was obtained as a yellow oil (305 mg, 60% yield) and used in the next step without purification.

reactant | methyl isocyanoacetate | 3.48 mmol, 345 mg | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | 3,3-difluoropyrrolidine hydrochloride | 3.48 mmol, 500 mg | Cl.FC1(CNCC1)F
reactant | triethylamine | 3.48 mmol, 487 μL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 1 mL | CO | CH4O
product | 1-(3,3-Difluoropyrrolidin-1-yl)-2-isocyanoethanone | Yield: 60% | FC1(CN(CC1)C(C[N+]#[C-])=O)F | C7H8F2N2O
